US08685977B2
N-(sec-butylsulfonyl)-2,4,5-trifluorobenzamide
Prepared according to Preparation 42 using 2,4,5-trifluorobenzoic acid (0.25 g, 1.4 mmol) and butane-2-sulfonamide (0.0.29 g, 2.1 mmol) to yield the title compound (0.19 g, 45%) as a white solid.

reactant | 2,4,5-trifluorobenzoic acid | 1.4 mmol, 0.25 g | FC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3F3O2
reactant | butane-2-sulfonamide | 2.1 mmol | CC(CC)S(=O)(=O)N | C4H11NO2S
product | N-(sec-butylsulfonyl)-2,4,5-trifluorobenzamide | 0.19 g, 45% | C(C)(CC)S(=O)(=O)NC(C1=C(C=C(C(=C1)F)F)F)=O | C11H12F3NO3S
